US06800659B2
(E,E)-2-Carboxy-3-(3,5-dimethoxy-4-hydroxystyryl)acrylonitrile (CR14)
The compound was prepared as described in Example 3 by adding 3,5-dimethoxy-4-hydroxycinnamaldehyde (0.15 g, 0.72 mmol) to cyanoacetic acid (0.061 g, 0.72 mmol). After refluxing for 1 h and recrystallization from ethanol a yellow solid was obtained (0.15 g, 75%). The product gave the following analytical data:

reactant | 3,5-dimethoxy-4-hydroxycinnamaldehyde | 0.72 mmol, 0.15 g | COC=1C=C(C=CC=O)C=C(C1O)OC | C11H12O4
reactant | cyanoacetic acid | 0.72 mmol, 0.061 g | C(#N)CC(=O)O | C3H3NO2
product | (E,E)-2-Carboxy-3-(3,5-dimethoxy-4-hydroxystyryl)acrylonitrile | C(=O)(O)\C(\C#N)=C\C=C\C1=CC(=C(C(=C1)OC)O)OC | C14H13NO5
